### PR TITLE
feat: Modal Logic

### PR DESCRIPTION
**Pull request by fmontesi**
Adds Modal Logic and the Modal Cube, including all the 15 well-known modal logics (K, D, T, S5, etc.) and their relationships.

The notation that overlaps with propositional logic is consistent with the existing module.

Note for future work (or here, if somebody can see an easy fix that doesn't compromise readability for modal logicians): I'm not very satisfied by the notation for judgements, which includes a ',' so it can lead to some parsing trouble.

### CODE REVIEW

File: Cslib/Foundations/Data/Relation.lean [hunk 1]
```diff
@@ -69,6 +69,22 @@ theorem MJoin.single (h : ReflTransGen r a b) : MJoin r a b := by
 /-- The relation `r` 'up to' the relation `s`. -/
 def UpTo (r s : α → α → Prop) : α → α → Prop := Comp s (Comp r s)
 
+/-- A relation `r` is (right) Euclidean if `r a b` and `r a c` guarantee `r b c`. -/
+class RightEuclidean (r : α → α → Prop) where
+  rightEuclidean : r a b → r a c → r b c
+
+/-- A relation `r` is serial if every element is related to some element. -/
+class Serial (r : α → α → Prop) where
+  serial : ∀ a, ∃ b, r a b
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Relation.lean]: We have an `abbrev` called `Reducible` a bit further down that I would use to write

```suggestion
/-- A relation `r` is serial if every element is `Reducible`. -/
class Serial (r : α → α → Prop) where
  serial a : Reducible r a
```

File: Cslib/Foundations/Data/Relation.lean [hunk 2]
```diff
@@ -69,6 +69,22 @@ theorem MJoin.single (h : ReflTransGen r a b) : MJoin r a b := by
...
+
+@[scoped grind →]
+lemma refl_serial (r : α → α → Prop) (h : Std.Refl r) : Relation.Serial r := by
+  constructor
+  intro a
+  obtain ⟨h⟩ := h
+  exists a
+  exact h a
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Relation.lean]: This should be

```suggestion
instance [Std.Refl r] : Relation.Serial r where
  serial a := ⟨a, Std.Refl.refl a⟩
```

File: Cslib/Logics/Modal/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,284 @@
...
+  /-- Constructs a judgement. -/
+  mk ::
+  /-- Model. -/
+  m : Model World Atom
+  /-- The world satisfying the proposition `φ`. -/
+  w : World
+  /-- The proposition satisfied by the world `w`. -/
+  φ : Proposition Atom
+
+@[inherit_doc] scoped notation m "," w " ⊨ " φ => Judgement.mk m w φ
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean]: You mentioned some issues using a comma in notation. There are some unicode alternatives. I see that `‚`  for instance already has an abbreviation `\glq` but doesn't seem to be used in Mathlib.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Starting with just a couple of comments about the additions in `Cslib.Foundations.Data.Relation`

File: Cslib/Logics/Modal/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,284 @@
...
+* The definitions of theory equivalence and the denotational semantics of worlds are inspired by
+  the development of `Cslib.Logic.HML`.
+-/
+
+@[expose] public section
+
+namespace Cslib.Logic.Modal
+
+/-- A model consists of a relation between worlds `r` and a valuation `v`. -/
+structure Model (World : Type*) (Atom : Type*) where
```
Comment (thomaskwaring) [inline Cslib/Logics/Modal/Basic.lean:33]: Is there scope for generalizing this outside the `Modal` directory? i have a development of Kripke models for propositional logic which is effectively the same

File: Cslib/Logics/Modal/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,284 @@
...
+    Std.Refl r where
+  refl := by
+    intro w
+    rcases instAtomNonempty with ⟨a⟩
+    let v := fun (w' : World) (a : Atom) => w' = w
+    let h' := h (v := v) (w := w) (φ := .atom a)
+    grind
+
+/-- In any reflexive model, `□φ → φ` is equivalent to `φ → ⋄φ`. -/
+theorem Satisfies.t_box_diamond [instRefl : Std.Refl m.r] : ⇓(m,w ⊨ □φ → φ) ↔ ⇓(m,w ⊨ φ → ⋄φ) := by
```
Comment (thomaskwaring) [inline Cslib/Logics/Modal/Basic.lean]: is it worth generalising this slightly to be modus tollens + duality?

File: Cslib/Logics/Modal/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,284 @@
...
+/-- Any model that admits the axiom T is reflexive. -/
+theorem Satisfies.t_refl
+    {r : World → World → Prop}
+    [instAtomNonempty : Nonempty Atom]
+    (h : ∀ {v : World → Atom → Prop} {w : World} {φ : Proposition Atom},
+      ⇓((Model.mk r v),w ⊨ φ → ⋄φ)) :
+    Std.Refl r where
+  refl := by
+    intro w
+    rcases instAtomNonempty with ⟨a⟩
```
Comment (thomaskwaring) [inline Cslib/Logics/Modal/Basic.lean]: this can be [Classical.arbitrary](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Nonempty.html#Classical.arbitrary), if you want

File: Cslib/Logics/Modal/Cube.lean [hunk 7]
```diff
@@ -0,0 +1,138 @@
...
+@[simp, scoped grind =]
+def Four World Atom := logic {m : Model World Atom | IsTrans World m.r}
+
+/-- The modal logic 5. -/
+@[simp, scoped grind =]
+def Five World Atom := logic {m : Model World Atom | Relation.RightEuclidean m.r}
+
+/-- The modal logic K45. -/
+@[simp, scoped grind =]
+def K45 World Atom := (K World Atom) ⊔ ((Four World Atom) ⊔ (Five World Atom))
```
Comment (thomaskwaring) [inline Cslib/Logics/Modal/Cube.lean]: is the canonical spelling of this to use `∪` for `Set.union` rather than "sup"? also are the parentheses (ie associating to the right) meaningful? ditto below

File: Cslib/Logics/Modal/Cube.lean [hunk 8]
```diff
@@ -0,0 +1,138 @@
...
+
+This section proves the essential inclusions of modal logics.
+
+The other inclusions in the Modal Cube can be derived from the properties of `≤` and `⊔`, as shown
+in `k_leq_t`.
+-/
+
+open scoped Proposition
+
+theorem k_leq_d : (K World Atom ≤ D World Atom) := by
```
Comment (thomaskwaring) [inline Cslib/Logics/Modal/Cube.lean]: similarly as above, `≤` unfolds to `⊆`

File: Cslib/Logics/Modal/Basic.lean (hunk 3 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean]: Thanks, I didn't know, I'll add it to my list of experiments to try.
A problem I'm considering is that whatever character we choose, we'll likely have many other notations for logic and type systems where commas and semicolons are gonna be used. We're gonna run out of unicode symbols fast. :-\

File: Cslib/Foundations/Data/Relation.lean (hunk 1 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/Relation.lean]: 1. Yes, I'd just not really known which of these to really commit to
2. I don't understand the proposal, could you clarify what you would want `Reducible` and `Serial` as they currently exist in this PR to be named?

File: Cslib/Logics/Modal/Basic.lean (hunk 4 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean:33]: Maybe? I'd need to see what you need, can you give me an example? If we can make it useful outside of here, we can of course do it.

File: Cslib/Logics/Modal/Basic.lean (hunk 5 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean]: I don't know. How would that look like? Why would it be better?

File: Cslib/Foundations/Data/Relation.lean (hunk 2 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/Relation.lean]: > This should be

Mmh, I get an error in Cube.lean because of this now, how would you fix that?

File: Cslib/Logics/Modal/Cube.lean (hunk 7 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Cube.lean]: Changing parentheses breaks proofs, yes (associativity changes).

I'm not sure about `∪`, since it reveals we're dealing with sets, but maybe I'm being overzealous in avoiding defeq abuse? @chenson2018 any thoughts on this?

File: Cslib/Foundations/Data/Relation.lean (hunk 1 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/Relation.lean]: 2 was wrong (I misread a def), sorry, I didn't edit my comment in time.

File: Cslib/Foundations/Data/Relation.lean (hunk 2 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/Relation.lean]: Fixed by having both versions (the instance now builds on the lemma).

File: Cslib/Logics/Modal/Cube.lean (hunk 7 above)
Comment (thomaskwaring) [reply Cslib/Logics/Modal/Cube.lean]: i see, currently the terms have type `Set` (i think?) so it's not abuse i would have thought — if it were an alias specific to this situation then i see why you would use `sup`

File: Cslib/Logics/Modal/Basic.lean (hunk 5 above)
Comment (thomaskwaring) [reply Cslib/Logics/Modal/Basic.lean]: actually ignore me i misread the statement

File: Cslib/Logics/Modal/Basic.lean (hunk 3 above)
Comment (chenson2018) [reply Cslib/Logics/Modal/Basic.lean]: Unfortunately, I think we have to make some preliminary decision now. Having this notation around makes even properly reviewing this PR difficult.

File: Cslib/Logics/Modal/Cube.lean (hunk 7 above)
Comment (chenson2018) [reply Cslib/Logics/Modal/Cube.lean]: I'm not sure about the defeq abuse question, but when I remove these parentheses I'm not seeing any errors?

File: Cslib/Logics/Modal/Cube.lean [hunk 9]
```diff
@@ -0,0 +1,138 @@
...
+  intro φ; grind
+
+theorem k_leq_four : (K World Atom ≤ Four World Atom) := by
+  intro φ; grind
+
+theorem k_leq_five : (K World Atom ≤ Five World Atom) := by
+  intro φ; grind
+
+theorem d_leq_t : (D World Atom ≤ T World Atom) := by
+  intro φ; grind [Relation.refl_serial]
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Cube.lean]: You should open the `Relation` scope (just for this theorem if you prefer) instead of specifying `Relation.refl_serial` manually.

(I'm still a bit skeptical of the `grind` annotation, but I really need the comma notation issue to be fixed to be able to properly look at this)

File: Cslib/Logics/Modal/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,285 @@
...
+
+@[inherit_doc] scoped infix:35 " ∨ " => Proposition.or
+
+/-- Implication. -/
+def Proposition.impl (φ₁ φ₂ : Proposition Atom) : Proposition Atom := ¬φ₁ ∨ φ₂
+
+@[inherit_doc] scoped infix:30 " → " => Proposition.impl
+
+/-- Bi-implication. -/
+@[simp, scoped grind =]
```
Comment (kmill) [inline Cslib/Logics/Modal/Basic.lean]: I would suggest not making this `simp`, since bi-implication is a basic connective — and it's extensionally the equality relation for propositions.

There will also be theorems about iffs, and we don't want `simp` to make them become accidentally inapplicable.

For naming, I think it would be reasonable to call this `Proposition.iff` so that it mirrors the global `Iff`. In general, I would suggest mirroring the Lean names — for example, `not` instead of `neg`.

File: Cslib/Logics/Modal/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,285 @@
...
+/-- Propositions. -/
+inductive Proposition (Atom : Type u) : Type u where
+  /-- Atomic proposition. -/
+  | atom (p : Atom)
+  /-- Negation. -/
+  | neg (φ : Proposition Atom)
+  /-- Conjunction. -/
+  | and (φ₁ φ₂ : Proposition Atom)
+  /-- Possibility. -/
+  | diamond (φ : Proposition Atom)
```
Comment (kmill) [inline Cslib/Logics/Modal/Basic.lean:48]: One thing about this is that to have `false` you need `Atom` to be nonempty, which proves to make the formalizations more complicated than necessary, with all the `[Nonempty Atom]` hypotheses.

I would strongly suggest adding `false` as an extra constructor. I would even suggest adding the rest of the operations here (`box`, `or`, and `impl`) rather than make them be derived notions. Conceptually there's something nice about starting with a minimal set of primitive propositions, but practically I believe it will be cleaner overall if we rely on the semantics given on `Satisfies`, and have some associated lemmas for relating the connectives.

This might take a bit extra boilerplate, to enable rewriting inside `Judgment.mk` using iffs, but I think overall it's worth the expense.

File: Cslib/Logics/Modal/Basic.lean (hunk 3 above)
Comment (kmill) [reply Cslib/Logics/Modal/Basic.lean]: I'm worried about overriding core notations, even if it's scoped. It's "supported", but it can lead to confusing situations, and it also triggers a different style of elaboration that's more aggressive with giving error messages and aborting, rather than continuing with `sorry`.

Something that can work is to create a macro that translates core propositional notations into corresponding `Proposition`s. We did this with LeanLTL for LTL, and I'm happy to help develop one for modal logic. I'm imagining syntax like `Modal[φ₁ ∨ φ₂]` to stand for `Proposition.or φ₁ φ₂` and `Modal[m,w ⊨ φ₁ ∨ φ₂]` for `Judgement.mk m w (Proposition.or φ₁ φ₂)`. There can be a pretty printer to use `Modal[...]` as well.

One benefit is then you can be sure the precedences are all exactly the same as the core notations — because it *is* the core notations.

File: Cslib/Logics/Modal/Cube.lean (hunk 7 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Cube.lean]: We had proofs not going through. I'll double check.

File: Cslib/Logics/Modal/Basic.lean (hunk 10 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean]: I fully agree, this slipped through a refactoring (the others don't simp). I've also called it `iff`.

File: Cslib/Logics/Modal/Basic.lean (hunk 11 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean:48]: The meanings of the derived connectives are in the respective `_char` theorems, like `impl_char`.

I'd like to take the discussion of making the inductive larger to Zulip and do it in a separate PR, because this goes in the opposite direction of comments we got for HML, so I'd like to delve into the pros and cons of making the inductive larger.

File: Cslib/Logics/Modal/Basic.lean (hunk 3 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean]: @chenson2018, I see (and I agree).

I'd rather put a prefix then instead of using a mystic comma, so I've gone ahead and done that. As concrete token, I've adopted the 'Modal' suggested by @kmill.

@kmill, some macro/elaborator would be very nice and in general is what we need I think, see: https://github.com/leanprover/cslib/issues/23

Let's connect about that on Zulip. For now just adding a prefix to the notation seems to work.

File: Cslib/Logics/Modal/Cube.lean (hunk 9 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Cube.lean]: Please try again, I've updated the notation. :-)

File: Cslib/Logics/Modal/Basic.lean (hunk 3 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean]: I've checked things that were giving trouble because of the notation (that I was aware of, at least) now work properly.

File: Cslib/Logics/Modal/Cube.lean (hunk 7 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Cube.lean]: For some reason the default associativity now works (I guess it's because in a previous version I was doing something weird with the World and Atom params), I'm removing the parentheses. Thanks for noticing!

File: Cslib/Logics/Modal/Basic.lean (hunk 4 above)
Comment (thomaskwaring) [reply Cslib/Logics/Modal/Basic.lean:33]: cool — this is my current [Kripke model development](https://github.com/thomaskwaring/cslib_SKI/blob/kripke/Cslib/Logics/Propositional/Semantics/Kripke.lean#L21), here i've taken the partial order as an assumption on the worlds, which makes sense for the intuitionistic case, and likewise folded in the assumption that the valuation is monotonic, which is as i understand it orthogonal to the concerns of modal logic.

Comment (thomaskwaring) [reply Cslib/Logics/Modal/Basic.lean:33]: i think i'd be happy for this to be a refactor down the track — i'll define first algebraic semantics etc so Kripke models aren't really a priority (i want them eventually for [the disjunction property](https://github.com/thomaskwaring/cslib_SKI/blob/8e38de4b1bbf2d873c2dded1457efb429be2b313/Cslib/Logics/Propositional/Semantics/Kripke.lean#L204), but that is also waiting for some mathlib results), but perhaps we can just keep this in mind, & have some broader discussion about unifying "semantics for logic" on zulip.

Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean:33]: Ah, I see what you mean. Yes, let's discuss it on Zulip, I'll post my response there.

File: Cslib/Logics/Modal/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,285 @@
...
+/-- If two worlds are not theory equivalent, there exists a distinguishing proposition. -/
+lemma not_theoryEq_satisfies (h : ¬TheoryEq m w₁ w₂) :
+    ∃ φ, (⇓Modal[m,w₁ ⊨ φ] ∧ ¬⇓Modal[m,w₂ ⊨ φ]) := by grind [=_ neg_satisfies]
+
+/-- If two worlds are theory equivalent and the former satisfies a proposition, the latter does as
+well. -/
+theorem theoryEq_satisfies {m : Model World Atom} (h : TheoryEq m w₁ w₂)
+    (hs : Satisfies m w₁ φ) : ⇓Modal[m,w₂ ⊨ φ] := by
+  unfold TheoryEq theory at h
+  rw [Set.ext_iff] at h
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean]: Seems like this should be extracted as a `TheoryEq.ext` lemma?

File: Cslib/Logics/Modal/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,285 @@
...
+  exact (h φ).mp hs
+
+/-- The K axiom, valid for all models. -/
+theorem Satisfies.k : ⇓Modal[m,w ⊨ □(φ₁ → φ₂) → (□φ₁ → □φ₂)] := by grind
+
+/-- The dual axiom, valid for all models. -/
+theorem Satisfies.dual : ⇓Modal[m,w ⊨ ⋄φ ↔ ¬□¬φ] := by
+  constructor <;> grind
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean]: The second proof here has a failing `grind?`, so I would squeeze into

```suggestion
  constructor
  · grind
  · grind only [→ satisfies_theory, usr Set.mem_setOf_eq, = impl_iff_impl, = derivation_def,
    = neg_satisfies, Satisfies, = box_iff_forall, = Set.setOf_true]
```

File: Cslib/Logics/Modal/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,285 @@
...
+
+/-- In any reflexive model, `□φ → φ` is equivalent to `φ → ⋄φ`. -/
+theorem Satisfies.t_box_diamond [instRefl : Std.Refl m.r] :
+    ⇓Modal[m,w ⊨ □φ → φ] ↔ ⇓Modal[m,w ⊨ φ → ⋄φ] := by
+  grind [instRefl.refl]
+
+/-- The B axiom, valid for all symmetric models. -/
+theorem Satisfies.b {m : Model World Atom} [instSymm : Std.Symm m.r] {w : World}
+    (φ : Proposition Atom) : ⇓Modal[m,w ⊨ φ → □⋄φ] := by
+  grind [instSymm.symm w]
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean]: For `grind?` reasons, let's write

```suggestion
  have := instSymm.symm w
  grind
```

File: Cslib/Logics/Modal/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,285 @@
...
+
+/-- Any model that admits the axiom B is symmetric. -/
+theorem Satisfies.b_symm
+    {r : World → World → Prop}
+    [instAtomNonempty : Nonempty Atom]
+    (h : ∀ {v : World → Atom → Prop} {w : World} {φ : Proposition Atom},
+      ⇓Modal[⟨r, v⟩,w ⊨ φ → □⋄φ]) :
+    Std.Symm r where
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean]: Let's format this a bit nicer:

```suggestion
theorem Satisfies.b_symm {World Atom} {r : World → World → Prop} [Nonempty Atom]
    (h : ∀ {v} {w} {φ : Proposition Atom}, ⇓Modal[⟨r, v⟩,w ⊨ φ → □⋄φ]) : Std.Symm r where
```

File: Cslib/Logics/Modal/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,285 @@
...
+    grind
+
+/-- The 4 axiom, valid for all transitive models. -/
+theorem Satisfies.four {m : Model World Atom} [instTrans : IsTrans World m.r] {w : World}
+    (φ : Proposition Atom) : ⇓Modal[m,w ⊨ ⋄⋄φ → ⋄φ] := by
+  simp only [impl_iff_impl]
+  intro h
+  rcases h with ⟨w', h₁, w'', h₂, hs⟩
+  exists w''
+  grind [IsTrans]
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean]: `grind` is problematic here, so let's just be explicit since it's a simple proof

```suggestion
theorem Satisfies.four {m : Model World Atom} [IsTrans World m.r] {w : World}
    (φ : Proposition Atom) : ⇓Modal[m,w ⊨ ⋄⋄φ → ⋄φ] := by
  simp only [impl_iff_impl]
  intro h
  rcases h with ⟨w', h₁, w'', h₂, hs⟩
  exact ⟨w'', IsTrans.trans _ _ _ h₁ h₂, hs⟩
```

File: Cslib/Logics/Modal/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,285 @@
...
+    intro w₁ w₂ w₃ h₁ h₂
+    have a := Classical.arbitrary Atom
+    let v := fun (w' : World) (a : Atom) => w' = w₃
+    let h' := h (v := v) (w := w₁) (φ := .atom a)
+    grind
+
+/-- The 5 axiom, valid for all Euclidean models. -/
+theorem Satisfies.five {m : Model World Atom} [instRightEuclidean : Relation.RightEuclidean m.r]
+    {w : World}
+    (φ : Proposition Atom) : ⇓Modal[m,w ⊨ ⋄φ → □⋄φ] := by grind [Relation.RightEuclidean]
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean]: Having `grind` work with a typeclass like this is problematic, and I'm not sure that you make use of `Relation.RightEuclidean` as a class anywhere? I think the right thing to do is split this up [like in FFL](https://github.com/FormalizedFormalLogic/Foundation/blob/master/Foundation/Vorspiel/Rel/Euclidean.lean#L12-L13) into a proposition and a class, and use the proposition for theorems like these.

File: Cslib/Logics/Modal/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,285 @@
...
+    [instAtomNonempty : Nonempty Atom]
+    (h : ∀ {v : World → Atom → Prop} {w : World} {φ : Proposition Atom},
+      ⇓Modal[⟨r, v⟩,w ⊨ φ → □⋄φ]) :
+    Std.Symm r where
+  symm := by
+    intro w₁
+    have a := Classical.arbitrary Atom
+    let v₁ := fun (w' : World) (a : Atom) => w' = w₁
+    let h₁ := h (v := v₁) (w := w₁) (φ := .atom a)
+    grind
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean:207]: This prevents any `grind?` issues:
```suggestion
    simp [impl_iff_impl] at h₁
    grind
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
I've pointed out some places below where the issue of failing `grind?` comes up. I realize this is a bit of an annoyance for otherwise okay proofs, but it's important for maintainability (especially because I will be a bit less available in the near future).

My general recommendation is during development to use `set_option linter.tacticAnalysis.verifyGrindOnly true` to catch these.

File: Cslib/Logics/Modal/Basic.lean (hunk 17 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/Basic.lean]: I'd rather stay in line with core for now (where this kind of stuff is a class), but we can discuss it for later (this sounds relevant in general). For now I've updated the proof so that I don't pass that argument to grind.

**Comment by fmontesi** [comment]
All done, thanks. :)

**Review by chenson2018 — APPROVED** [review]
I also pushed a couple of small style commits, so please check that these look fine.

**Comment by fmontesi** [comment]
Looks good, thank you very much!
